US08912219B2
Step 7: 1-Methanesulfonyl-4-(4-nitro-phenoxy)-piperidine
A solution of 4-(4-nitro-phenoxy)-piperidine (7.80 g, 35.1 mmol) and triethylamine (7.77 mL, 56.2 mmol) in DCM (100 mL) at 0° C. was treated dropwise with methanesulfonyl chloride (3.26 mL, 42.1 mmol) and stirred cold for 1 hour. The mixture was diluted with DCM, washed with 1M HCl, a saturated NaHCO3 solution, water and brine, dried over Na2SO4 and concentrated under vacuum to leave the title compound (9.10 g, 86% yield) as a yellow/orange solid. 1H NMR (300 MHz, CDCl3) δ 8.21 (d, J=9.2 Hz, 2H), 6.97 (d, J=9.2 Hz, 2H), 4.68 (m, 1H), 3.39 (m, 4H), 2.84 (s, 3H), 2.05 (m, 4H). LCMS (m/z, Method A) ES+ 301.0 [M+1]+.

reactant | 4-(4-nitro-phenoxy)-piperidine | 35.1 mmol, 7.80 g | [N+](=O)([O-])C1=CC=C(OC2CCNCC2)C=C1 | C11H14N2O3
reactant | triethylamine | 56.2 mmol, 7.77 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 42.1 mmol, 3.26 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-Methanesulfonyl-4-(4-nitro-phenoxy)-piperidine | 9.10 g, 86% yield | CS(=O)(=O)N1CCC(CC1)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H16N2O5S
